US04451471
5.0 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 50 ml of hexamethylphosphoric acid triamide under nitrogen at 45°, 0.73 g of 50% strength sodium hydride suspension (in mineral oil, de-oiled with hexane) is added in portions and the mixture is stirred at room temperature for 1 hour. 2.22 g of 3-bromopropanol are then added dropwise. The mixture is then stirred at room temperature for 90 minutes, poured into a mixture of 400 ml of ice-water and 20 ml of 2 N hydrochloric acid, extracted by stirring twice with 100 ml of ethyl acetate each time, washed twice with 100 ml of water each time, dried over sodium sulphate and concentrated by evaporation under reduced pressure. The oily crude product is dissolved in 30 ml of toluene, and chromatographed over a column of 30 g of silica gel with toluene as eluant. The 800-1200 ml fractions are combined, concentrated to dryness by evaporation and dried for 3 hours at 0.01 mbar. Analytically pure 2-(3-hydroxypropylthio)-4,5-bis-(p-methoxyphenyl)-thiazole is obtained in the form of a pale yellow oil, Rf value 0.25 (silica gel thin layer/toluene:ethyl acetate 3:1).

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 5.0 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-bromopropanol | 2.22 g | BrCCCO | C3H7BrO
reactant | hydrochloric acid | 2 N, 20 ml | Cl | ClH
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-(3-hydroxypropylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | OCCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H21NO3S2
